### PR TITLE
Add algR (from CohenCyril's Abel backport)

### PR DESCRIPTION
**Pull request by Tragicus**
##### Motivation for this change

Add algR in `algC.v`, as part of the backport from Abel.
N.B. The code comes from Abel/master, not CohenCyril/Abel_backports

Depends on:
- https://github.com/math-comp/math-comp/pull/1198

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)

##### Compatibility with MathComp 1.X

- [ ] I added the label `TODO: MC-1 port` to make sure someone ports this PR to
      the `mathcomp-1` branch **or** I already opened an issue or PR (please cross reference).

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

**Comment by thery** [comment]
@Tragicus is it still a draft?

File: doc/changelog/01-added/1199-abel-b-algR.md [hunk 1]
```diff
@@ -0,0 +1,16 @@
+- in `field/algC.v`
+  + record `algR` with projections `algRval`, `algRvalP`
+  + lemmas `total_algR`, `algRval_is_additive`, `algRval_is_multiplicative`,
+  + definition `algR_norm`
+  + lemmas `algR_ler_normD`, `algR_normr0_eq0`, `algR_normrMn`,
+    `algR_normrN`, `algR_addr_gt0`, `algR_ger_leVge`, `algR_normrM`,
+	  `algR_ler_def`, `algR_archiFieldMixin`
+  + definition `algRpfactor`
```
Comment (thery) [inline doc/changelog/01-added/1199-abel-b-algR.md:8]: `algR_pfactor`

File: field/algC.v [hunk 2]
```diff
@@ -928,3 +933,242 @@ End AutC.
 
 End AlgebraicsTheory.
 #[global] Hint Resolve Crat0 Crat1 dvdC0 dvdC_refl eqCmod_refl eqCmodm0 : core.
+
+Local Notation "p ^^ f" := (map_poly f p)
+  (at level 30, f at level 30, format "p  ^^  f").
+
+Record algR := in_algR {algRval : algC; algRvalP : algRval \is Num.real}.
```
Comment (thery) [inline field/algC.v:940]: I guess it is on purpose that there is not the coercion `algRval < : algC`?

File: field/algC.v [hunk 3]
```diff
@@ -928,3 +933,242 @@ End AutC.
...
+move=> /= x; have := real_lt_succ_floor (valP `|x|).
+set n := Num.floor _ + 1 => x_lt.
+exists (`|(n + 1)%R|%N); apply: (lt_le_trans x_lt _).
+by rewrite /= rmorphMn/= pmulrn ler_int (le_trans _ (lez_abs _))// lerDl.
+Qed.
+HB.instance Definition _ := Num.NumDomain_bounded_isArchimedean.Build algR
+  algR_archiFieldMixin.
+
+Definition algRpfactor (x : algC) : {poly algR} :=
+  if x \is Num.real =P true is ReflectT xR then 'X - (in_algR xR)%:P else
```
Comment (thery) [inline field/algC.v:1000]: I am puzzled `x \in Num.real`, given we are in `algC` should it be everywhere `x \in Creal`?

File: field/algC.v [hunk 4]
```diff
@@ -928,3 +933,242 @@ End AutC.
...
+  algCpfactor x = 'X - x%:P.
+Proof. by move=> xR; rewrite algRpfactorRE map_polyXsubC. Qed.
+
+Lemma algRpfactorCE (x : algC) : x \isn't Num.real ->
+  algRpfactor x =
+  'X^2 - (in_algR (Creal_Re x) *+ 2) *: 'X + ((in_algR (normr_real x))^+2)%:P.
+Proof. by rewrite /algRpfactor; case: eqP => // p; rewrite p. Qed.
+
+Lemma algCpfactorCE (x : algC) : x \isn't Num.real ->
+  algCpfactor x = ('X - x%:P) * ('X - x^*%:P).
```
Comment (thery) [inline field/algC.v:1021]: Maybe the general theorem in algC `('X + x) * ('X + x^*) = 'X^2 + Re: x *:x  * 'X + |x| ^2%:+R` would interested to have,

File: field/algC.v (hunk 2 above)
Comment (Tragicus) [reply field/algC.v:940]: I guess it is simply not used. @CohenCyril ?

File: field/algC.v (hunk 3 above)
Comment (CohenCyril) [reply field/algC.v:1000]: `Num.real` is the generic operation for `Creal`. Shouldn't the former subsume the latter, everywhere?

Comment (thery) [reply field/algC.v:1000]: you mean `Creal` should be deprecated?

File: field/algC.v (hunk 4 above)
Comment (Tragicus) [reply field/algC.v:1021]: This would be very low on my priority list. Can we postpone that?

File: field/algC.v (hunk 2 above)
Comment (Tragicus) [reply field/algC.v:940]: It does not cost anything, so done.

File: field/algC.v (hunk 4 above)
Comment (thery) [reply field/algC.v:1021]: fine with me

**Comment by hoheinzollern** [comment]
@Tragicus could you rebase on master? @CohenCyril and I will be handling the next release soon.

**Comment by Tragicus** [comment]
The jasmin failure looks unrelated to me, should I worry?

**Review by affeldt-aist — APPROVED** [review]
